US05814631
Synthesis of 3-(4-chlorobenzenesulfonyl)-5-methyl-2,4(1H,3H)-quinazolinedione (Compound 2)
2.00 g (9.19 mmol) of 4-chlorobenzenesulfonylisocyanate and 1.26 g (8.33 mmol) of 2-amino-6-methylbenzoic acid were treated in the same way as in Example 1 to obtain 2.50 g of the above-identified compound (yield 85.6%). Properties: colorless crystal, Melting point: >250° C., PMR (δppm, DMSO-d6): 2.56 (3H,s), 6.99 (2H,t), 7.49 (1H,t), 7.77 (2H,d), 8.20 (2H,d), 11.54 (1H,br).

reactant | 4-chlorobenzenesulfonylisocyanate | 9.19 mmol, 2.00 g | ClC1=CC=C(C=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
reactant | 2-amino-6-methylbenzoic acid | 8.33 mmol, 1.26 g | NC1=C(C(=O)O)C(=CC=C1)C | C8H9NO2
product | 3-(4-chlorobenzenesulfonyl)-5-methyl-2,4(1H,3H)-quinazolinedione | 2.50 g, yield 85.6% | ClC1=CC=C(C=C1)S(=O)(=O)N1C(NC2=CC=CC(=C2C1=O)C)=O | C15H11ClN2O4S
